US04990512
Bromine (0.15 ml) was added in one portion to a suspension of 1-(5-trifluoromethyl-2-pyridyl)-4-trifluoromethylpyrimidin-6-one (compound No. 2 in Table I) (0.5 g) and sodium acetate trihydrate (1.1 g) in acetic acid (4.8 ml). After stirring for 16 hours, the solvent, was removed under reduced pressure, and the residue was poured into water and aqueous sodium bicarbonate solution. Rigourous extraction into diethylether followed by drying over magnesium sulphate and removal of the solvent under reduced pressure, gave 1-(5-trifluoromethyl-2-pyridyl)-3-bromo-4-trifluoromethylpyrimidin-6-one as a pale yellow solid (m.p. 142-143° C.). The compound showed (CDC13) 8.90 (1H,s), 8.80 (1H,s), 8.2 (1H,dg), 8.16 (1H,d).

reactant | Bromine | 0.15 ml | BrBr | Br2
reactant | 1-(5-trifluoromethyl-2-pyridyl)-4-trifluoromethylpyrimidin-6-one | 0.5 g | FC(C=1C=CC(=NC1)N1C=NC(=CC1=O)C(F)(F)F)(F)F | C11H5F6N3O
reactant | sodium acetate trihydrate | 1.1 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | acetic acid | 4.8 ml | C(C)(=O)O | C2H4O2
product | 1-(5-trifluoromethyl-2-pyridyl)-3-bromo-4-trifluoromethylpyrimidin-6-one | FC(C=1C=CC(=NC1)N1CN(C(=CC1=O)C(F)(F)F)Br)(F)F | C11H6BrF6N3O
